US09402832B2
A mixture of 5-vinylbenzo[d][1,3]dioxole (6.0 g, 40.5 mmol) and 10% Pd/C (840 mg) in MeOH (50 mL) was hydrogenated for 8 h at 10 atm. Then Pd/C was filtered and the MeOH was removed to give compound 5-ethylbenzo[d][1,3]dioxole (3.0 g, 50%) as colorless liquid. 1H-NMR (DMSO-d6): δ 1.11 (t, 3H, J=7.2 Hz), 2.50 (q, 2H, J1=7.2 Hz, J2=16 Hz), 5.93 (s, 2H), 6.64 (d, 1H, J=8 Hz), 6.77 (m, 2H).

reactant | 5-vinylbenzo[d][1,3]dioxole | 40.5 mmol, 6.0 g | C(=C)C1=CC2=C(OCO2)C=C1 | C9H8O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 840 mg | [Pd] | Pd
product | 5-ethylbenzo[d][1,3]dioxole | 3.0 g, 50% | C(C)C1=CC2=C(OCO2)C=C1 | C9H10O2
